US08168787B2
4-methyl-N3-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine 8
In an autoclave, 5 g 6-chloro-N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine amine, 0.5 g palladium on charcoal 5% wet with 50% water, 50 mL ethanol and 5 mL triethylamine is charged. The mixture is hydrogenated at 5 bars and room temperature for 40 hours. Once completed the conversion, the catalyst is filtered off and the filtrates is concentrated in vacuum. The residue is taken again with isopropyl acetate and an aqueous carbonate solution. The layers are separated, and the organic layer is concentrated, yielding, upon drying, 3 g of product with 85% HPLC purity (A %), which is identified through LC-MS and 1H-NMR.

reactant | 6-chloro-N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine amine | 5 g | ClC1=CC(=NC(=N1)NC1=C(C=CC(=C1)[N+](=O)[O-])C)C=1C=NC=CC1 | C16H12ClN5O2
reactant | water | O | H2O
reactant | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
product | 4-methyl-N3-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine | CC1=C(C=C(C=C1)N)NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H15N5
